US04933458
In 190 ml of conc. hydrochloric acid was dissolved 19.1 g of 2-(isobutylamino)benzyl alcohol, and the solution was heated in a sealed tube at 100° C. for 40 min. The reaction mixture was stirred for 30 min. under chilling with ice and the precipitated crystals were collected by filtration. The collected crystals were washed successively with hydrochloric acid and acetone and dried to give 16.9 g (yield: 68%) of 2-isobutylamino)benzyl chloride hydrochloride as a white crystalline product.

reactant | 2-(isobutylamino)benzyl alcohol | 19.1 g | C(C(C)C)NC1=C(CO)C=CC=C1 | C11H17NO
reactant | hydrochloric acid | 190 ml | Cl | ClH
product | benzyl chloride hydrochloride | Cl.C(C1=CC=CC=C1)Cl | InChI=1S/C7H7Cl.ClH/c8-6-7-4-2-1-3-5-7;/h1-5H,6H2;1H
